US07635715B2
Step F: Preparation of N-((7-Bromo-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine
1,1-Dimethylethyl N-((7-bromo-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate (328 mg, 773 μmol) was stirred in TFA (2 mL, 26.9 mmol) at room temperature for 25 minutes. Water was added. The resulting precipitate was filtered and washed with water to give the desired product as an off-white solid (263 mg). MS (m/e)=368.1 (M+H)+. Calculated for C15H14BrNO5 367.01.

reactant | 1,1-Dimethylethyl N-((7-bromo-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 773 μmol, 328 mg | BrC1=CC=C2C(=C(C(C(C2=C1)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O | C19H22BrNO5
reactant | TFA | 26.9 mmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | Water | O | H2O
product | N-((7-Bromo-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine | 263 mg | BrC1=CC=C2C(=C(C(C(C2=C1)(C)C)=O)C(=O)NCC(=O)O)O | C15H14BrNO5
